US04273943
To a solution of isoeugenol (344 g., 2.1 moles) in 420 ml. of pyridine under nitrogen atmosphere is added 428 ml. of acetic anhydride over a period of 30 minutes. The resulting solution is stirred at room temperature overnight followed by treatment with ice-water (1400 ml.). After stirring for three hours, the resulting precipitate is filtered, washed with water (3×500 ml.) and dried in vacuo to give 381.7 g. of crude product. Acetyl isoeugenol (269 g., 62%) is obtained from washing the crude product with n-hexane.

reactant | isoeugenol | 2.1 moles, 344 g | C=1(C(O)=CC=C(C=CC)C1)OC | C10H12O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Acetyl isoeugenol | 269 g, 62% | C(C)(=O)C1=C(C(=CC(=C1)C=CC)OC)O | C12H14O3
